2177-12-10 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CC:[**CC Contact Info 9921**]   .
   HPI: 66 M with CAD s/p MI [**2172**] medically managed, CHF EF35% COPD on
   home O2 2L, DM2 on insulin, non-small cell lung cancer who presented
   with acute on chronic cholecystitis on [**2177-11-30**], now s/p open
   cholecystectomy. The following history is obtained from the medical
   record. He was originially admitted on [**11-25**] and disharged [**11-27**] with
   ?cholecystis. He was then seen in surgery clinic where it was decided
   to readmit the patient for cholecystectomy; Cipro and Flagyl were also
   started. He was seen in cardiology clinic for pre-op evaluation, where
   it was advised to hold plavix.
   .
   In the OR: The patient received cefazolin and flagyl. He also received
   hydrocortisone 100mg IV prior to surgery as he had been on prednisone
   one month ago - by had not been on it for the past month. Lap chole was
   attempted with conversion to open cholecystectomy. The case lasted 2
   hrs with minimal blood loss. Towards the end of the case his blood
   pressures dropped to SBP 90-100's, started on neo. UOP remained good at
   325cc for the whole case.
   .
   ROS: unable to obtain
   .
   PMH:
   CAD
   DM2
   Anemia
   non-small cell lung cancer s/p RUL resection,RFA [**4-6**], last chemo [**4-7**]
   COPD on 2L Home O2
   s/p PPM/?AICD for symptomatic bradycardia vs arrhythmia
   s/p removal of prostate polyp
   .
   Home Medications:
   ASA 81mg PO daily
   Lipitor 80mg daily
   Lasix 60mg PO daily
   Carvedilol 6.25mg [**Hospital1 **]
   Lisinopril 5gm PO daily
   Protonix 40gm PO daily
   Ezetimibe 10mg daily
   Tiotropium Bromide 18 mcg Capsule daily
   Plavix 75mg daily- held
   Pulmicort Flexhaler 90 mcg/Inhalation Aerosol 1 puff [**Hospital1 **]
   Xopenex HFA 45 mcg/Actuation HFA Aerosol Inhaler  1 puff [**Hospital1 **] prn,
   Glargine 30 units every evening at bedtime.
   .
   Allergies: NKDA
   .
   Social History:Quit tobacco [**2172**] - prior 80 pack-year history. No
   ETOH or illicits. Lives alone on the [**Location (un) **], has a visiting
   nurse/home attendant for assistance with IADLs. Divorced.
   .
   Family History: NMother had Alzheimer's died in her 80s, father had an
   aneurysm died in his 70s. He has a sister with hypertension and another
   sister with renal disease. His two daughters are in good health.
   .
   Physical Exam:
   Vitals: T:97.1 P: 60 BP:136/61 R:18 SaO2: 98% on FI02 100%
   General: intubated and sedated
   HEENT: small but reactive pupils, no JVD but diff to assess given
   obesity
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted, incision with clean, non-bloody bandacy
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   .
   ECHO [**2177-12-1**]; There is moderate regional left ventricular systolic
   dysfunction with thinning and akinesis of the inferior and
   inferolateral walls. There is no ventricular septal defect. The right
   ventricular cavity is mildly dilated with mild global free wall
   hypokinesis.  Moderate (2+) mitral regurgitation is seen. The tricuspid
   valve leaflets are mildly thickened. Moderate [2+] tricuspid
   regurgitation is seen.
   IMPRESSION: Mild symmetric left ventricular hypertrophy with moderate
   focal LV systolic dysfunction consistent with prior
   inferior/inferolateral infarction. The RV is not well seen but is
   probably slightly dilated/hypokinetic. Moderate tricuspid and mitral
   regurgitation. Mild pulmonary artery systolic hypertension.
   .
   CXR: new right and left pleural effusion and bilateral infiltrates
   .
   EKG: HR 62 with LBBB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-12-9**] 08:55 PM
   Fentanyl - [**2177-12-10**] 04:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-10**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.2
C (95.4
   HR: 66 (60 - 68) bpm
   BP: 115/52(70) {115/52(70) - 154/75(101)} mmHg
   RR: 24 (16 - 31) insp/min
   SpO2: 91%
   Heart rhythm: AV Paced
             Total In:
                                                                  3,731 mL
                                                                    673 mL
   PO:
             TF:
   IVF:
                                                                  3,551 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  1,425 mL
   Urine:
                                                                  1,630 mL
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                     90 mL
   Balance:
                                                                  1,406 mL
                                                                   -752 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 423 (423 - 450) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 20 cmH2O
   Plateau: 26 cmH2O
   SpO2: 91%
   ABG: 7.43/42/62/25/2
   Ve: 12.1 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General: intubated and sedated
   HEENT: small but reactive pupils, no JVD but diff to assess given
   obesity
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted, incision with clean, non-bloody bandacy
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Labs / Radiology
   224 K/uL
   9.6 g/dL
   167 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   31.7 %
   6.6 K/uL
        [image002.jpg]
                            [**2177-12-9**]  06:44 PM
                            [**2177-12-9**]  07:04 PM
                            [**2177-12-9**]  10:04 PM
                            [**2177-12-10**]  12:55 AM
                            [**2177-12-10**]  03:43 AM
                            [**2177-12-10**]  06:36 AM
   WBC
   6.6
   Hct
   29.4
   31.7
   Plt
   224
   Cr
   0.9
   0.9
   TCO2
   26
   27
   29
   29
   Glucose
   143
   167
   Other labs: PT / PTT / INR:16.5/27.8/1.5, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   66 M with CAD s/p MI [**2172**] medically managed, COPD on home O2 2L, DM2 on
   insulin, non-small cell lung cancer who presented with acute on chronic
   cholecystitis on [**2177-11-30**], now s/p open cholecystectomy.
   # Cholecystectomy: s/p cipro and flagyl
   - no further abx per surgery
   - low suction until extubated
   - NPO
   - checK HCT
   .
   # Mechanical Ventilation: maintain ventilation tonight as pt has new
   volume overload on CXR
   - change to PS
   - [**Month (only) 453**] FI02
   - RISBI and SBT in am
   - diuresis one liter neg if BP permits
   .
   # COPD: on 2L NC at home
   - albuterol and ipratropium while ventilated
   - restart tiotoprium, xopenex, pulmicort in am
   .
   # CHF: EF 35% with AICD, clinically w/o crackles or edema but CXR
   demonstrates new volume overload
   - will not extubate tonight
   - will diurese 500-1 liter by am if BP permits
   - change lisinopril to captopril if BP permits for afterload reduction
   - hold carvedilol overnight for NPO
   .
   # DM:
   - 1/2 dose home glarging tonight for NPO: 19 units glargine and SSI
   .
   # CAD: s/p MI in [**2172**], fixed defects on pMIBI by OSH cardiologist.
   Plavix being held.
   - ASA 81 mg
   - obtain EKG
   - hold simvastatin, ezetimibe, carvedilol until taking PO's
   .
   # Non-small cell lung CA:
   - will f/u with OSH oncologist
   .
   #) Prophylaxis: PPI, sc heparin,
   .
   #) FEN:  NPO
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2177-12-10 09:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2177-12-9**] 05:49 PM
 ARTERIAL LINE - START [**2177-12-9**] 07:00 PM
   Diuresed overnight with lasix with good response
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2177-12-10**] 04:20 AM
   Furosemide (Lasix) - [**2177-12-10**] 07:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2177-12-10**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 70 (60 - 70) bpm
   BP: 143/56(80) {115/52(70) - 154/75(101)} mmHg
   RR: 36 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 146.5 kg (admission): 120 kg
             Total In:
                                                                  3,731 mL
                                                                    863 mL
   PO:
             TF:
   IVF:
                                                                  3,551 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                  2,175 mL
   Urine:
                                                                  1,630 mL
                                                                  1,935 mL
   NG:
   Stool:
   Drains:
                                                                    120 mL
                                                                    240 mL
   Balance:
                                                                  1,406 mL
                                                                 -1,312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 700 (700 - 700) mL
   Vt (Spontaneous): 423 (423 - 450) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 20 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.43/42/62/25/2
   Ve: 12.1 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   224 K/uL
   167 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   31.7 %
   6.6 K/uL
        [image002.jpg]
                            [**2177-12-9**]  06:44 PM
                            [**2177-12-9**]  07:04 PM
                            [**2177-12-9**]  10:04 PM
                            [**2177-12-10**]  12:55 AM
                            [**2177-12-10**]  03:43 AM
                            [**2177-12-10**]  06:36 AM
   WBC
   6.6
   Hct
   29.4
   31.7
   Plt
   224
   Cr
   0.9
   0.9
   TCO2
   26
   27
   29
   29
   Glucose
   143
   167
   Other labs: PT / PTT / INR:16.5/27.8/1.5, Ca++:8.4 mg/dL, Mg++:1.6
   mg/dL, PO4:3.3 mg/dL
   Imaging: CXR:  persistent effusion R>L, interstital marking
   Assessment and Plan
 POSTOPERATIVE S/P OPEN CCY:  Doesn't appear to be in pain. Plan for
   pain control per medical resident's note.
 RESPIRATORY FAILURE, ACTUE ON CHRONIC:  Maintained on MV given volume
   overload in setting of underlying oxygen dependent COPD.  Diuresed with
   lasix, negative about 1L this morning.  Was tachypneic breathing in
   high 30's this morning on 12 PSV/5 PEEP, unable to assess autoPEEP in
   this setting albeit concerned for increased work of breathing with
   underlying COPD - PEEP increased to 8 (ETT 7.5), rate settled to
   mid-teens, appears much more comfortable.  Anticipate extubation later
   today once more awake.  Continue bronchodilators.  On 40 mg propofol,
   not responsive.  Need to decrease sedation,
 CONGESTIVE HEART FAILURE:  Tolerating diuresis this morning, known EF
   ~ 35%.  Hold on further lasix.  Repleting K/Mg. Repeat labs in the
   afternoon.  Will discuss restarting afterload reduction with surgical
   service as well as beta blocker given his blood pressure has been
   stable.
 CAD:  Holding plavix perioperatively.  On ASA.
 DIABETES:  Glargine dropped to half dose, getting RISS.  BS ~ 160's.
   NPO pending extubation and in setting of surgical status.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   Arterial Line - [**2177-12-9**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-12-11 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -failed spontaneous breathing trial
   -had desat to 80s in early afternoon, felt to be [**3-3**] autopeep
   -had hypotension to SBP 80s-90s, also thought to be related to autopeep
   -changed to AC ventillation
   [ ]decrease sedation and do another SBP
   [ ]morphine PCA for pain control
   [ ]Hct Q8H
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-12-10**] 09:49 PM
   Fentanyl - [**2177-12-11**] 04:00 AM
   Midazolam (Versed) - [**2177-12-11**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-11**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 77 (67 - 85) bpm
   BP: 112/50(66) {89/42(55) - 147/66(86)} mmHg
   RR: 21 (8 - 38) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Wgt (current): 146.5 kg (admission): 120 kg
             Total In:
                                                                  1,386 mL
                                                                    348 mL
   PO:
             TF:
   IVF:
                                                                    996 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  3,470 mL
                                                                    135 mL
   Urine:
                                                                  2,910 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
                                                                    560 mL
                                                                     40 mL
   Balance:
                                                                 -2,084 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 505 (505 - 505) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: 7.43/46/63/26/4
   Ve: 10.8 L/min
   PaO2 / FiO2: 126
   Physical Examination
   General: intubated and sedated.  Not arousable to voice commands.
   HEENT: small but reactive pupils, no JVD but diff to assess given
   obesity
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted, incision with clean, non-bloody bandacy
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Labs / Radiology
   257 K/uL
   9.6 g/dL
   112 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   7 mg/dL
   104 mEq/L
   140 mEq/L
   31.1 %
   6.4 K/uL
        [image002.jpg]
                            [**2177-12-9**]  07:04 PM
                            [**2177-12-9**]  10:04 PM
                            [**2177-12-10**]  12:55 AM
                            [**2177-12-10**]  03:43 AM
                            [**2177-12-10**]  06:36 AM
                            [**2177-12-10**]  03:00 PM
                            [**2177-12-10**]  03:05 PM
                            [**2177-12-10**]  05:01 PM
                            [**2177-12-11**]  03:31 AM
                            [**2177-12-11**]  03:47 AM
   WBC
   6.6
   8.0
   6.4
   Hct
   31.7
   30.3
   31.1
   Plt
   [**Telephone/Fax (3) 9944**]
   Cr
   0.9
   1.0
   0.8
   TCO2
   26
   27
   29
   29
   25
   29
   32
   Glucose
   167
   124
   112
   Other labs: PT / PTT / INR:15.5/30.1/1.4, Differential-Neuts:72.8 %,
   Lymph:19.2 %, Mono:6.3 %, Eos:1.6 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   66 M with CAD s/p MI [**2172**] medically managed, COPD on home O2 2L, DM2 on
   insulin, non-small cell lung cancer who presented with acute on chronic
   cholecystitis on [**2177-11-30**], now s/p open cholecystectomy.
   # Cholecystectomy: s/p cipro and flagyl
   - no further abx per surgery
   - low suction until extubated
   - NPO
   - Hct q8hrs for now; switch to Hct [**Hospital1 **] f stable this PM/
   .
   # Mechanical Ventilation: maintain ventilation tonight as pt has new
   volume overload on CXR
   -Reduce sedation with Propofol
   - repeat RSBI
   -Extubate if tolerated
   -Patient may need NIV after extubation
   - Continued diluresis if BP permits
   -Goal O2 sats 91-93%
   .
   # COPD: on 2L NC at home
   - albuterol and ipratropium while ventilated
   - restart tiotoprium, xopenex, pulmicort once extubated
   .
   # CHF: EF 35% with AICD, clinically w/o crackles or edema but CXR
   demonstrates new volume overload
   - continue gentle diuresis as BP tolerates
   -Check lytes [**Hospital1 **] and repleate as necessary
   - Start Captopril 6.25mg daily to decrease afterload
   - [**Last Name (un) 9927**] gtt if needed after extubated
   - Continue to hold Carvedilol for now
   .
   # DM:
   - 1/2 dose home glarging tonight for NPO: 19 units glargine and SSI
   .
   # CAD: s/p MI in [**2172**], fixed defects on pMIBI by OSH cardiologist.
   Plavix being held.
   - ASA 81 mg
   - obtain EKG
   - Re-start simvastatin, ezetimibe, carvedilol today if PO tolerated
   .
   # Non-small cell lung CA:
   - will f/u with OSH oncologist
   .
   #) Prophylaxis: PPI, sc heparin,
   .
   #) FEN:  NPO / Replete lytes PRN
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: NPO / Replete Lytes PRN
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   A.line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2177-12-12 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The patient was successfully extubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-12-11**] 11:37 AM
   Morphine Sulfate - [**2177-12-11**] 01:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-12-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 74 (74 - 86) bpm
   BP: 121/53(71) {107/47(64) - 156/69(91)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 146.5 kg (admission): 120 kg
             Total In:
                                                                    981 mL
                                                                    140 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    781 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    142 mL
   Urine:
                                                                  2,335 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
                                                                    105 mL
   Balance:
                                                                 -1,459 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 450 (426 - 563) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 83.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.39/53/71/28/5
   Ve: 6 L/min
   PaO2 / FiO2: 237
   Physical Examination
   General: intubated and sedated.  Arousable,appropirately nods to voice
   commands.
   HEENT: small but reactive pupils, no JVD but diff to assess given
   obesity
   Pulmonary: Lungs CTA bilaterally
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted, incision with clean, non-bloody bandacy
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Labs / Radiology
   266 K/uL
   9.6 g/dL
   107 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   7 mg/dL
   104 mEq/L
   141 mEq/L
   31.1 %
   5.8 K/uL
        [image002.jpg]
                            [**2177-12-10**]  05:01 PM
                            [**2177-12-11**]  03:31 AM
                            [**2177-12-11**]  03:47 AM
                            [**2177-12-11**]  11:57 AM
                            [**2177-12-11**]  02:40 PM
                            [**2177-12-11**]  03:05 PM
                            [**2177-12-11**]  05:34 PM
                            [**2177-12-11**]  09:03 PM
                            [**2177-12-12**]  04:46 AM
                            [**2177-12-12**]  05:19 AM
   WBC
   6.4
   5.8
   Hct
   31.1
   31.3
   31.1
   Plt
   257
   266
   Cr
   0.8
   0.8
   0.8
   0.7
   TCO2
   29
   32
   30
   30
   32
   33
   Glucose
   112
   113
   113
   107
   Other labs: PT / PTT / INR:15.0/28.2/1.3, Differential-Neuts:68.6 %,
   Lymph:22.4 %, Mono:6.9 %, Eos:1.9 %, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   66 M with CAD s/p MI [**2172**] medically managed, COPD on home O2 2L, DM2 on
   insulin, non-small cell lung cancer who presented with acute on chronic
   cholecystitis on [**2177-11-30**], now s/p open cholecystectomy.
   # Cholecystectomy: s/p cipro and flagyl
   - no further abx per surgery
   - low suction until extubated
   - NPO
   - Hct [**Hospital1 **].  No evidence of active bleed at this point.
   .
   # Mechanical Ventilation: maintain ventilation tonight as pt has new
   volume overload on CXR.  RSBI now favorable for extubation.
   -Extubate if tolerated
   -Patient may need NIV after extubation
   -Lasix 20mg IV this AM; diurese as BP tolerates
   -Goal O2 sats 91-93%
   .
   # COPD: on 2L NC at home
   - albuterol and ipratropium while ventilated
   - restart tiotoprium, xopenex, pulmicort once extubated
   .
   # CHF: EF 35% with AICD, clinically w/o crackles or edema but CXR
   demonstrates new volume overload
   - continue gentle diuresis as BP tolerates
   -Check lytes [**Hospital1 **] and repleate as necessary
   - Continue Captopril 6.25mg daily to decrease afterload
   - [**Last Name (un) 9927**] gtt if needed after extubated
   - Continue to hold Carvedilol for now
   .
   # DM:
   - 1/2 dose home glarging tonight for NPO: 19 units glargine and SSI
   .
   # CAD: s/p MI in [**2172**], fixed defects on pMIBI by OSH cardiologist.
   Plavix being held.
   - ASA 81 mg
   - obtain EKG
   - Re-start simvastatin, ezetimibe, carvedilol today if PO tolerated
   .
   # Non-small cell lung CA:
   - will f/u with OSH oncologist
   .
   #) Prophylaxis: PPI, sc heparin,
   .
   #) FEN:  NPO / Replete lytes PRN
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: NPO / Replete Lytes PRN
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   A.line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: None
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2177-12-12 11:30:00 Physician Attending Progress Note
Chief Complaint: postoperative respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2177-12-11**] 02:00 PM
 NON-INVASIVE VENTILATION - START [**2177-12-11**] 03:14 PM
   Extubated to BiPAP which he continued on overnight, hypersomnolence and
   hypercapnia in setting of sedation; adjusting pain regimen
   This morning on nasal cannula
   Negative fluid balance at ~1.5 L at midnight
                                                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2177-12-11**] 11:37 AM
   Morphine Sulfate - [**2177-12-11**] 01:44 PM
   Heparin Sodium (Prophylaxis) - [**2177-12-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Heme / Lymph: Anemia
   Pain: [**1-31**] Minimal
   Flowsheet Data as of  [**2177-12-12**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 76 (74 - 86) bpm
   BP: 132/51(72) {107/47(66) - 156/69(91)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
   Wgt (current): 146.5 kg (admission): 120 kg
             Total In:
                                                                    981 mL
                                                                    184 mL
   PO:
                                                                    120 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    781 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,440 mL
                                                                    382 mL
   Urine:
                                                                  2,335 mL
                                                                    382 mL
   NG:
   Stool:
   Drains:
                                                                    105 mL
   Balance:
                                                                 -1,459 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 450 (426 - 563) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.39/53/71/28/5
   Ve: 6 L/min
   PaO2 / FiO2: 237
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: ),
   prolonged expiratory phase
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   266 K/uL
   107 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   7 mg/dL
   104 mEq/L
   141 mEq/L
   31.1 %
   5.8 K/uL
        [image002.jpg]
                            [**2177-12-10**]  05:01 PM
                            [**2177-12-11**]  03:31 AM
                            [**2177-12-11**]  03:47 AM
                            [**2177-12-11**]  11:57 AM
                            [**2177-12-11**]  02:40 PM
                            [**2177-12-11**]  03:05 PM
                            [**2177-12-11**]  05:34 PM
                            [**2177-12-11**]  09:03 PM
                            [**2177-12-12**]  04:46 AM
                            [**2177-12-12**]  05:19 AM
   WBC
   6.4
   5.8
   Hct
   31.1
   31.3
   31.1
   Plt
   257
   266
   Cr
   0.8
   0.8
   0.8
   0.7
   TCO2
   29
   32
   30
   30
   32
   33
   Glucose
   112
   113
   113
   107
   Other labs: PT / PTT / INR:15.0/28.2/1.3, Differential-Neuts:68.6 %,
   Lymph:22.4 %, Mono:6.9 %, Eos:1.9 %, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Adequately controlled,
   balancing pain control with respiratory status given hypersomnolence
   and hypercapnia yesterday.
 Open CCY:  Balancing pain meds as above.  Do need to try to mobilize
   him to the cardiac chair today given he is at higher risk for
   postoperative pneumonia given underlying COPD, splinting secondary to
   pain, atelectasis.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC:  COPD with exacerbation in
   setting of volume overload postoperatively.  Gentle diuresis today with
   goal of 500 cc negative.  Given tenuous respiraotry status, continue to
   monitor in ICU.
 CHF,  LVEF~30%:  On captoril, lasix 20 mg IV x 1 this morning.
   Follow I/0s and electrolytes.  Replete K and Mg as needed.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   Arterial Line - [**2177-12-9**] 07:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2177-12-13 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   The patient was OOB in chair
   Started on clears
   Re-started Carvidolol, re-start Lisinopril tomorrow in AM, at which
   time Captopril is d/c'd.
   At midnight, -1.7L.
   This AM, the patient continues to complain of [**6-8**] abd. pain at
   surgical incision site,  otherwise no new complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-13**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 81 (74 - 86) bpm
   BP: 106/46(63) {106/46(63) - 165/77(99)} mmHg
   RR: 25 (6 - 28) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Wgt (current): 146.5 kg (admission): 120 kg
             Total In:
                                                                    791 mL
                                                                    228 mL
   PO:
                                                                    510 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    281 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  2,552 mL
                                                                    375 mL
   Urine:
                                                                  2,552 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,761 mL
                                                                   -147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   General: alert, responsive, NAD
   HEENT: small but reactive pupils, no JVD but diff to assess given
   obesity
   Pulmonary: few bibasilar crackles
   Cardiac: RRR, nl. S1S2, no M/R/G noted
   Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
   organomegaly noted, incision with clean, non-bloody bandacy
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Labs / Radiology
   281 K/uL
   9.4 g/dL
   117 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   6 mg/dL
   102 mEq/L
   140 mEq/L
   30.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2177-12-11**]  03:31 AM
                            [**2177-12-11**]  03:47 AM
                            [**2177-12-11**]  11:57 AM
                            [**2177-12-11**]  02:40 PM
                            [**2177-12-11**]  03:05 PM
                            [**2177-12-11**]  05:34 PM
                            [**2177-12-11**]  09:03 PM
                            [**2177-12-12**]  04:46 AM
                            [**2177-12-12**]  05:19 AM
                            [**2177-12-13**]  04:41 AM
   WBC
   6.4
   5.8
   5.9
   Hct
   31.1
   31.3
   31.1
   30.9
   Plt
   257
   266
   281
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   TCO2
   32
   30
   30
   32
   33
   Glucose
   112
   113
   113
   107
   117
   Other labs: PT / PTT / INR:15.0/28.2/1.3, Differential-Neuts:68.6 %,
   Lymph:22.4 %, Mono:6.9 %, Eos:1.9 %, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   66 M with CAD s/p MI [**2172**] medically managed, COPD on home O2 2L, DM2 on
   insulin, non-small cell lung cancer who presented with acute on chronic
   cholecystitis on [**2177-11-30**], now s/p open cholecystectomy.
   # Cholecystectomy: s/p Cipro and Flagyl
   - no further abx per surgery
   - low suction until extubated
   - Advance diet  per surgery recs
   - Hct daily.  No evidence of active bleed at this point.
   -Tylenol standing and Oxycodone as needed for pain
   -Encourage Incentive Spirometry
   -OOB in chair
   .
   # Resp. status: successfully extubated
   -NC for O2 sats 91-93%
   -Lasix 20mg IV this AM; diurese as BP tolerates
   -Goal O2 sats 91-93%
   .
   # COPD: on 2L NC at home
   -continue  tiotoprium, xopenex, pulmicort
   .
   # CHF: EF 35% with AICD, clinically w/o crackles or edema but CXR
   demonstrates new volume overload
   - Continue gentle diuresis as BP tolerates
   - Check lytes [**Hospital1 **] and repleate as necessary
   - Continue outpatient Carvedilol and Lisinopril
   .
   # DM:
   - Re-start outpt. Glargine dose once taking POs: continue SSI
   .
   # CAD: s/p MI in [**2172**], fixed defects on pMIBI by OSH cardiologist.
   Plavix being held.
   - ASA 81 mg
   - Re-start simvastatin, ezetimibe, carvedilol
   .
   # Non-small cell lung CA:
   - will f/u with OSH oncologist
   .
   #) Prophylaxis:sc heparin,
   .
   #) FEN: Advance diet per surgery / Replete lytes PRN
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition: Advance diet per surgery / Replete Lytes PRN
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   A.line
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: None
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: call out to surgery today

2177-12-13 10:43:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   Out of bed to chair
   Started on clears per surgery
   Negative fluid balance at midnight
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: [**1-31**] Minimal
   Flowsheet Data as of  [**2177-12-13**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 81 (74 - 86) bpm
   BP: 106/46(63) {106/46(63) - 165/77(99)} mmHg
   RR: 25 (6 - 28) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Wgt (current): 146.5 kg (admission): 120 kg
             Total In:
                                                                    791 mL
                                                                    256 mL
   PO:
                                                                    510 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    281 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  2,552 mL
                                                                    375 mL
   Urine:
                                                                  2,552 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,761 mL
                                                                   -119 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: )
   Abdominal: Soft, Bowel sounds present, staples in tact
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   281 K/uL
   117 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.6 mEq/L
   6 mg/dL
   102 mEq/L
   140 mEq/L
   30.9 %
   5.9 K/uL
        [image002.jpg]
                            [**2177-12-11**]  03:31 AM
                            [**2177-12-11**]  03:47 AM
                            [**2177-12-11**]  11:57 AM
                            [**2177-12-11**]  02:40 PM
                            [**2177-12-11**]  03:05 PM
                            [**2177-12-11**]  05:34 PM
                            [**2177-12-11**]  09:03 PM
                            [**2177-12-12**]  04:46 AM
                            [**2177-12-12**]  05:19 AM
                            [**2177-12-13**]  04:41 AM
   WBC
   6.4
   5.8
   5.9
   Hct
   31.1
   31.3
   31.1
   30.9
   Plt
   257
   266
   281
   Cr
   0.8
   0.8
   0.8
   0.7
   0.7
   TCO2
   32
   30
   30
   32
   33
   Glucose
   112
   113
   113
   107
   117
   Other labs: PT / PTT / INR:15.0/28.2/1.3, Differential-Neuts:68.6 %,
   Lymph:22.4 %, Mono:6.9 %, Eos:1.9 %, Lactic Acid:1.0 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Changes to oxycodone.
 OPEN CCY:  Pain adequately controlled. Normal bowel sounds on exam.
   Tolerating clears.  Poor appetite.
 RESPIRATORY FAILURE, ACUTE ON CHRONIC: Secondary to volume overlaod
   and underlying COPD.  Improved with diuresis.  Likely some component of
   atelectasis.  Incentive spirometry, out of bed to chair as tolerated.
   Continue bronchodilators.  Lasix this morning.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2177-12-9**] 06:13 PM
   18 Gauge - [**2177-12-9**] 06:13 PM
   Arterial Line - [**2177-12-9**] 07:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes